US07153878B2
3-Methyl-2-(4-trifluoromethyl-benzoylamino)-butyric acid methyl ester (4.75 g, 16.42 mmol) is dissolved in acetic anhydride (25 mL) and heated to 95° C. for 3 hr. The mixture is concentrated in vacuo and the residue is partitioned between aqueous saturated sodium hydrogen carbonate (100 mL) and ethyl acetate (100 mL) the layers are separated, the organic phase is washed with water and brine (100 mL each), dried over anhydrous magnesium sulfate, filtered, concentrated in vacuo, and purified over silica gel eluting with 9:1 hexanes:ethyl acetate to afford 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-4H-oxazol-5-one as a colorless oil which solidifies to a white crystalline solid on standing, 4.14 g, 93%. MS (M++1) 272.

reactant | 3-Methyl-2-(4-trifluoromethyl-benzoylamino)-butyric acid methyl ester | 16.42 mmol, 4.75 g | COC(C(C(C)C)NC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C14H16F3NO3
solvent | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-4H-oxazol-5-one | C(C)(C)C1N=C(OC1=O)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
